2127-03-22 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2127-3-21**] 12:08 PM
   extubated yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2127-3-20**] 01:00 PM
   Levofloxacin - [**2127-3-21**] 12:08 PM
   Cefipime - [**2127-3-21**] 01:47 PM
   Vancomycin - [**2127-3-22**] 08:00 AM
   Metronidazole - [**2127-3-22**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2127-3-21**] 09:00 PM
   Metoprolol - [**2127-3-22**] 12:05 AM
   Heparin Sodium (Prophylaxis) - [**2127-3-22**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-3-22**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 99 (38 - 142) bpm
   BP: 147/80(106) {106/52(73) - 157/108(117)} mmHg
   RR: 19 (11 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,400 mL
                                                                    822 mL
   PO:
             TF:
   IVF:
                                                                  1,140 mL
                                                                    702 mL
   Blood products:
   Total out:
                                                                  1,531 mL
                                                                    870 mL
   Urine:
                                                                  1,531 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -131 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (328 - 328) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: ///30/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   488 K/uL
   91 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.0 mEq/L
   12 mg/dL
   96 mEq/L
   134 mEq/L
   26.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-3-18**]  09:53 PM
                             [**2127-3-18**]  09:56 PM
                             [**2127-3-19**]  05:03 AM
                             [**2127-3-19**]  05:18 AM
                             [**2127-3-19**]  07:36 AM
                             [**2127-3-19**]  11:46 AM
                             [**2127-3-19**]  08:53 PM
                             [**2127-3-20**]  04:33 AM
                             [**2127-3-21**]  03:56 AM
                             [**2127-3-22**]  12:29 AM
   WBC
   16.4
   15.1
   10.4
   12.0
   10.1
   Hct
   25.9
   24.4
   24.6
   25.5
   26.3
   Plt
   [**Telephone/Fax (3) 5270**]09
   488
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TropT
   0.02
   0.03
   TCO2
   28
   31
   31
   Glucose
   84
   90
   84
   74
   70
   85
   91
   Other labs: PT / PTT / INR:14.9/28.0/1.3, CK / CKMB /
   Troponin-T:39/5/0.03, Differential-Neuts:84.1 %, Lymph:8.5 %, Mono:6.4
   %, Eos:0.7 %, Lactic Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.1 mg/dL
   Imaging: CXR improving bilateral edema, effusions
   Assessment and Plan
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT) - unresponsive
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) - extubated successfully,
   continue to diurese, continue abx for VAP
   goals of care - DNI seems appropriate, d/w daughter if she visits
   nutrition - decision needs to be made re: PEG, restart TFs
   recent CVA - continue ASA
   HTN - continue outpatient regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-3-19**] 12:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: